************************************************************************
* auCdl Netlist:
* 
* Library Name:  testLib
* Top Cell Name: sram_2_bit_1
* View Name:     schematic
* Netlisted on:  Jun 13 08:45:03 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: testLib
* Cell Name:    sram_2_bit_1
* View Name:    schematic
************************************************************************

.SUBCKT sram_2_bit_1 BL BLN VDD VSS WL0 WL1
*.PININFO WL0:I WL1:I BL:B BLN:B VDD:B VSS:B
MM9 net36 WL1 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM8 net35 WL1 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM0 net34 WL0 BL VSS nmos_sram w=54.0n l=20n nfin=2
MM3 net33 WL0 BLN VSS nmos_sram w=54.0n l=20n nfin=2
MM7 net36 net35 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM6 net35 net36 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM2 net34 net33 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM1 net33 net34 VSS VSS nmos_sram w=54.0n l=20n nfin=2
MM11 net36 net35 VDD VDD pmos_sram w=27n l=20n nfin=1
MM10 net35 net36 VDD VDD pmos_sram w=27n l=20n nfin=1
MM5 net34 net33 VDD VDD pmos_sram w=27n l=20n nfin=1
MM4 net33 net34 VDD VDD pmos_sram w=27n l=20n nfin=1
.ENDS

